US07399867B2
Trifluoro-methanesulfonic acid 6-benzyloxy-1-[4-(2-piperidin-1-yl-ethoxy)-phenoxy]-naphthalen-2-yl ester
Combine trifluoromethanesulfonic acid 6-hydroxy-1-[4-(2-piperidin-1-yl-ethoxy)-phenoxy]-naphthalen-2-yl ester (247 mg, 0.48 mmol), triphenylphosphine (190 mg, 0.725 mmol), benzyl alcohol (0.075 mL, 0.725 mmol) and tetrahydrofuran (5 mL) in a flask placed in an ice bath. Add diisopropyl azodicarboxylate (0.14 mL, 0.725 mmol), stir for 1 hour, warm to ambient temperature and stir for 30 minutes. Dilute with ethyl acetate and wash with 50% saturated aqueous sodium bicarbonate, saturated aqueous sodium chloride, dry with magnesium sulfate and remove solvent under vacuum. Chromatograph on silica gel with dichloromethane/methanol mixtures to give 213 mg of the title compound (73%).

reactant | trifluoromethanesulfonic acid 6-hydroxy-1-[4-(2-piperidin-1-yl-ethoxy)-phenoxy]-naphthalen-2-yl ester | 0.48 mmol, 247 mg | OC=1C=C2C=CC(=C(C2=CC1)OC1=CC=C(C=C1)OCCN1CCCCC1)OS(=O)(=O)C(F)(F)F | C24H24F3NO6S
reactant | triphenylphosphine | 0.725 mmol, 190 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | benzyl alcohol | 0.725 mmol, 0.075 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | diisopropyl azodicarboxylate | 0.725 mmol, 0.14 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | Trifluoro-methanesulfonic acid 6-benzyloxy-1-[4-(2-piperidin-1-yl-ethoxy)-phenoxy]-naphthalen-2-yl ester | 213 mg, 73% | C(C1=CC=CC=C1)OC=1C=C2C=CC(=C(C2=CC1)OC1=CC=C(C=C1)OCCN1CCCCC1)OS(=O)(=O)C(F)(F)F | C31H30F3NO6S
